* 12AT7 / ECC81 — medium-mu dual triode (RF / driver / phase splitter).
*
* Norman Koren triode model. Parameters from Koren published dataset.
* tube_type: triode
* Pins: P (plate), G (grid), K (cathode) — single section.
.SUBCKT 12AT7 P G K
* Koren parameters: MU=60 EX=1.35 KG1=460 KP=300 KVB=300
E1 7 0 VALUE={V(P,K)/300*LN(1+EXP(300*(1/60+V(G,K)/SQRT(300+V(P,K)*V(P,K)))))}
G1 P K VALUE={(PWRS(V(7),1.35)+PWRS(V(7),1.35))/460}
C1 G K 2.5p
C2 G P 1.5p
C3 P K 0.45p
RGI G K 1MEG
.ENDS 12AT7
